US05356893
4-(4-Bromo-3-methylbenzoyl)morpholine
A solution of 4-bromo-3-methylbenzoic acid (5.00 g) in dry THF (60 ml) was added dropwise at -5° to +5° to 1,1'-carbonylbis[1H-imidazole](4.90 g) and stirred under nitrogen over 10 min. Stirring was continued at +23° for 4 h, and morpholine (6.1 ml) added dropwise over 1 min. After 16 h the solution was evaporated, treated with aqueous 2M hydrochloric acid (80 ml), and extracted with ethyl acetate (4×75 ml). The combined, dried organic extracts were washed with aqueous saturated sodium bicarbonate (100 ml), dried and evaporated. A solution of the residual oil in dichloromethane (60 ml) was adsorbed onto silica gel (Merck 7734) and the mixture applied as a plug to a flash column of silica gel (Merck 9385). Gradient elution with ethyl acetate:hexane (3:7→6:4) afforded the title compound as a cream solid (5.75 g).

reactant | 4-bromo-3-methylbenzoic acid | 5.00 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | 1,1'-carbonylbis[1H-imidazole] | 4.90 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 6.1 ml | N1CCOCC1 | C4H9NO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-(4-Bromo-3-methylbenzoyl)morpholine | 5.75 g | BrC1=C(C=C(C(=O)N2CCOCC2)C=C1)C | C12H14BrNO2
